US04767750
2-Acetyloxy-5-n-Octanoylbenzoic Acid
1 g of 5-n-octanoylsalicylic acid is suspended in 15 ml of acetic anhydride. After addition of 2 drops of concentrated sulphuric acid the solution is heated to 100° C. for 15 minutes. The solution is poured onto 150 ml of crushed ice. After extracting with ether, washing the organic phase with the water, drying over sodium sulphate and evaporating, 1 g of a white crystalline product is obtained. The yield is 85%. The recrystallization is done from a 50/50 mixture of toluene and petroleum ether. The melting point is 130° C.

reactant | 5-n-octanoylsalicylic acid | 1 g | C(CCCCCCC)(=O)C1=CC=C(C(C(=O)O)=C1)O | C15H20O4
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulphuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | 2-Acetyloxy-5-n-Octanoylbenzoic Acid | 1 g, yield is 85% | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)C(CCCCCCC)=O | C17H22O5
